US06384041B1
To a suspension of 140 mg (0.407 mmol) of [[6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester in 5 mL of chloroform was added 0.053 mL of oxalyl chloride followed by 0.10 mL of pyridine. The reaction was stirred for 30 hours at ambient temperature then an additional 0.10 mL of oxalyl chloride was added. This mixture was stirred and additional 2 days then quenched into 4.0 mL of dilute ammonium hydroxide. The product was extracted into 4.0 mL of methylene chloride. The organic phase was washed with saturated sodium chloride, dried with sodium sulfate and concentrated to 300 mg of crude oil. The residue was purified by flash chromatography (30 g of silica, hexanes-ethyl acetate gradient 100:0 to 25:75) to provide 28 mg (17%) of [[5-(aminooxoacetyl)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a solid. nmr (300 MHz, CDCl3) δ1.20 (t, 3H), 2.88 (q, 2H), 3.70 (s, 3H), 4.98 (s, 2H), 5.44 (s, 2H), 6.00 (s, 1H), 6.60 (s, 1H), 6.84 (m, 2H), 6.90 (dt, 1H), 7.20 (dt, 1H), 8.39 (s, 1H)

reactant | [[6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.407 mmol, 140 mg | COC(COC=1C2=C(N=CN1)N(C(=C2)CC)CC2=CC(=CC=C2)F)=O | C18H18FN3O3
reactant | oxalyl chloride | 0.053 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.10 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 0.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | [[5-(aminooxoacetyl)-6-ethyl-7-[(3-fluorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 28 mg, 17% | COC(COC=1C2=C(N=CN1)N(C(=C2C(C(=O)N)=O)CC)CC2=CC(=CC=C2)F)=O | C20H19FN4O5
